US04016267
Preparation of 1-cyclopropylmethylcytosine
To a solution of 4.55 g. of 85% potassium hydroxide in 93 mml. of methanol cooled to 5°, was added 17.0 g. of 5-bromo-1-cyclopropylmethyl-5,6-dihydrocytosine. The mixture was stirred and allowed to warm spontaneously. When the initial reaction, which had warmed the mixture to 30°, subsided, the mixture was refluxed for 5 minutes and allowed to cool and stand at room temperature overnight. The suspension was evaporated under reduced pressure on a water bath at 86°. The residue was triturated was 300 ml. of water on a steam bath and chilled in ice before filtering. The resulting 1-cyclopropylmethylcytosine was washed with cold water and dried in a vacuum desiccator over potassium hydroxide; yield, 9.50 g., m.p. 264°-266°. A sample for analysis was recrystallized from ethanol; m.p. 265°-267°.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 5-bromo-1-cyclopropylmethyl-5,6-dihydrocytosine | BrC1C(=NC(N(C1)CC1CC1)=O)N | C8H12BrN3O
solvent | methanol | CO | CH4O
product | 1-cyclopropylmethylcytosine | C1(CC1)CN1C(=O)N=C(N)C=C1 | C8H11N3O
